US05760066
Synthesis of AA16: 4-(4-Trifluoromethylphenylaminosulfonyl)-5-methylisoxazole
AA16 was prepared starting from 2-(4-trifluoromethylphenylaminosulfonyl)1-ethoxypropene under the same conditions as described for AA11. Alternatively, AA16 was prepared from 4-trifluoromethylaniline and 4-chlorosulfonyl-5-methylisoxazole.

reactant | 2-(4-trifluoromethylphenylaminosulfonyl)1-ethoxypropene | FC(C1=CC=C(C=C1)NS(=O)(=O)C(=COCC)C)(F)F | C12H14F3NO3S
reactant | 4-trifluoromethylaniline | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | 4-chlorosulfonyl-5-methylisoxazole | ClS(=O)(=O)C=1C=NOC1C | C4H4ClNO3S
product | 4-(4-Trifluoromethylphenylaminosulfonyl)-5-methylisoxazole | FC(C1=CC=C(C=C1)NS(=O)(=O)C=1C=NOC1C)(F)F | C11H9F3N2O3S
